US05955470
Trichloromethyl-1-benzotriazolecarboxylate
A stirred mixture of benzotriazole (3 g), triphosgene (11.22 g), charcoal (1 g) and anhydrous toluene was refluxed overnight and filtered. Evaporation of the filtrate gave an oily solid which was suspended in a mixture of hexane and ether (1:1). Filtration and evaporation of the filtrate gave the titled compound as an oil.

reactant | benzotriazole | 3 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | triphosgene | 11.22 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | charcoal | 1 g | C | CH4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
product | Trichloromethyl-1-benzotriazolecarboxylate | ClC(Cl)(Cl)OC(=O)N1N=NC2=C1C=CC=C2 | C8H4Cl3N3O2
